US07629488B2
Step A. [1-(2-Oxo-2-phenyl-ethylcarbamoyl)-ethyl]-carbamic acid benzyl ester
To a solution of commercially available N-α-CBZ-L-alanine (2.11 g, 9.5 mmol) in dichloromethane (50 mL) was added 2-aminoacetophenone hydrochloride (1.62 g, 9.5 mmol). The resulting solution was cooled to 0° C. and N-methylmorpholine (1.15 g, 11 mmol), 1-hydroxybenzotriazole (2.55 g, 18.9 mmol) and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (2.35 g, 12.3 mmol), in that order, were added under an Argon atmosphere. The reaction mixture was warmed to room temperature and stirred overnight. The reaction was quenched by addition of saturated aqueous NaHCO3 solution; the separated organic phase was washed with 2N citric acid, saturated NaHCO3 solution and brine, then dried over MgSO4 overnight. After filtration and concentration, the residue was purified by column chromatography on silica gel (eluent, EtOAc:hexane-1:1) to yield the title compound, [1-(2-oxo-2-phenyl-ethylcarbamoyl)-ethyl]-carbamic acid benzyl ester.

reactant | N-α-CBZ-L-alanine | 9.5 mmol, 2.11 g | C[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1 | C11H13NO4
reactant | 2-aminoacetophenone hydrochloride | 9.5 mmol, 1.62 g | Cl.NCC(=O)C1=CC=CC=C1
reactant | N-methylmorpholine | 11 mmol, 1.15 g | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole | 18.9 mmol, 2.55 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 12.3 mmol, 2.35 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | [1-(2-oxo-2-phenyl-ethylcarbamoyl)-ethyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(C)C(NCC(C1=CC=CC=C1)=O)=O)=O | C19H20N2O4
